US07935674B2
4-Fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole obtained in Example 2-(3) and 4-ethoxybenzoyl chloride were treated in a manner similar to Example 2-(4) to give 4-ethoxyphenyl 4-fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-gluco-pyranosyl)indol-3-yl ketone as a colorless powder. APCI-Mass m/Z 614 (M+H). 1H-NMR (DMSO-d6) δ 1.38 (t, J=6.9 Hz, 3H), 1.68 (s, 3H), 1.97 (s, 3H), 1.98 (s, 3H), 2.04 (s, 3H), 4.11 (d, J=4.0 Hz, 2H), 4.16 (q, J=7.0 Hz, 2H), 4.28-4.31 (m, 1H), 5.30 (t, J=9.8 Hz, 1H), 5.54 (t, J=9.6 Hz, 1H), 5.76 (t, J=9.3 Hz, 1H), 6.34 (d, J=9.0 Hz, 1H), 7.01 (dd, J=10.6, 8.0 Hz, 1H), 7.07 (d, J=8.7 Hz, 2H), 7.36 (td, J=8.1, 4.9 Hz, 1H), 7.62 (d, J=8.3 Hz, 1H), 7.83 (d, J=8.8 Hz, 2H), 8.14 (s, 1H).

reactant | 4-Fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole | FC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24FNO9
reactant | 4-ethoxybenzoyl chloride | C(C)OC1=CC=C(C(=O)Cl)C=C1 | C9H9ClO2
product | 4-ethoxyphenyl 4-fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-gluco-pyranosyl)indol-3-yl ketone | FC1=C2C(=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C(=O)C1=CC=C(C=C1)OCC | C31H32FNO11
